Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Exertional angina

 
Major Surgical or Invasive Procedure:
Coronary Artery Bypass x 3 (LIMA-LAD, SVG-OM, SVG-PDA) ___

 
History of Present Illness:
Mr. ___ ___ year old male with
known coronary artery disease since ___. Cath in ___ showed
multivessel disease, not amenable to PCI and he was medically
managed. Over the last several months he has noticed worsening
exertional chest pain and dyspnea on exertion. He was admitted 
to
outside hospital in ___ with congestive heart failure. He denies
symptoms at rest, and currently denies orthopnea, PND, pedal
edema, palpitations, syncope and pre-syncope. Given the
progression of his exertional symptoms, he was referred to Dr.
___ surgical revascularization.

 
Past Medical History:
Coronary artery disease, Ischemic Cardiomyopathy
Atrial Fibrillation
Hypertension
Abdominal aortic aneurysm s/p endovascular stent
Hypercholesterolemia
History of atrioventricular block
Osteoarthritis
History of Asbestos Exposure
Past Surgical History
s/p Endovascular repair of AAA ___
s/p Repair of Endoleak of AAA ___
s/p Left Inguinal Hernia repair
s/p Right Total Knee Replacement
s/p Left Ankle Fusion
Past Cardiac Procedures:
s/p ___ Pacemaker ___ #___

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
BP 106/74    HR 70   RR 16   SAT 98%
HT 70 inches   WT 190lbs
General: Elderly male in wheelchair in no acute distress
Skin: Dry [x] intact [x] - multiple bruises noted
HEENT: PERRLA [x] EOMI [x]
Neck: Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x] Irregular [] Murmur [x] grade soft systolic 
murmur
noted at ___ 
Abdomen: Soft [x] non-distended [x] non-tender [x] bowel sounds 
+
[x]
Extremities: Warm [x], well-perfused [x] 
Edema: trace edema
Varicosities: GSV appeared suitable. No obvious varicosities on
standing but parts of the GSV appeared mildy dilated in both
lower extremities
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: 2  Left: 2
DP           Right: 1  Left: 1
___           Right: 1  Left: 1
Radial       Right: 2  Left: 2
Carotid Bruit        Right: none   Left: none

 
Pertinent Results:
___ 06:00AM BLOOD WBC-7.5 RBC-4.00* Hgb-11.3* Hct-34.8* 
MCV-87 MCH-28.2 MCHC-32.4 RDW-15.9* Plt ___
___ 02:14AM BLOOD WBC-8.8 RBC-4.04* Hgb-11.3* Hct-34.2* 
MCV-85 MCH-28.0 MCHC-33.1 RDW-16.0* Plt ___
___ 06:00AM BLOOD ___
___ 02:14AM BLOOD ___ PTT-39.1* ___
___ 02:11AM BLOOD ___ PTT-42.3* ___
___ 04:37AM BLOOD ___ PTT-41.4* ___
___ 04:18PM BLOOD ___ PTT-37.1* ___
___ 01:11PM BLOOD ___ PTT-48.3* ___
___ 11:24AM BLOOD ___ PTT-47.9* ___
___ 04:10AM BLOOD ___ PTT-76.6* ___
___ 11:30AM BLOOD ___ PTT-150* ___
___ 06:00AM BLOOD Glucose-111* UreaN-36* Creat-1.2 Na-136 
K-4.1 Cl-99 HCO3-26 AnGap-15
___ 02:14AM BLOOD Glucose-128* UreaN-24* Creat-1.2 Na-130* 
K-3.6 Cl-96 HCO___-26 AnGap-12
 
Brief Hospital Course:
The patient was brought to the Operating Room on ___ where 
the patient underwent CABG x 3 with Dr. ___.  Overall the 
patient tolerated the procedure well and post-operatively was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring.  He required multiple blood products in the 
immediate post-op period.  He had VTac in the OR and was placed 
on Amiodarone.  Permanent Pacemaker was interrogated.
POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable, weaned from inotropic and 
vasopressor support.  Beta blocker was initiated and the patient 
was gently diuresed toward the preoperative weight.  The patient 
was transferred to the telemetry floor for further recovery.  He 
continued to have runs of VTac and was placed on PO Amio.  
Coumadin was also resumed for chronic AFib.  Chest tubes and 
pacing wires were discontinued without complication.  The 
patient was evaluated by the physical therapy service for 
assistance with strength and mobility.  By the time of discharge 
on POD 4 the patient was ambulating freely, the wound was 
healing and pain was controlled with oral analgesics.  The 
patient was discharged to LiveCare of the ___ in good 
condition with appropriate follow up instructions.
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. Metoprolol Tartrate 25 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Pravastatin 40 mg PO DAILY 
4. Furosemide 20 mg PO DAILY 
5. Ferrous Sulfate 325 mg PO DAILY 
6. Glucosamine 1500 Complex *NF* (glucosamine-chondroit-vit 
C-Mn) unknown  Oral daily 
7. Warfarin Dose is Unknown  PO DAILY16 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Metoprolol Tartrate 25 mg PO BID 
Hold for HR < 55 or SBP < 90 and call medical provider. 
3. Pravastatin 40 mg PO DAILY 
___  MD to order daily dose PO DAILY 
MD to dose for goal INR ___, dx: AFib 
5. Acetaminophen 650 mg PO Q4H:PRN pain/fever 
6. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
7. Pantoprazole 40 mg PO Q24H 
8. Furosemide 40 mg PO DAILY Duration: 10 Days 
40mg daily x 10 days, then resume 20mg daily (home dose) 
9. Potassium Chloride 20 mEq PO DAILY Duration: 10 Days 
Hold for K > 4.5 
10. Ferrous Sulfate 325 mg PO DAILY 
11. Glucosamine 1500 Complex *NF* (glucosamine-chondroit-vit 
C-Mn) 1500 units ORAL DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease, Ischemic Cardiomyopathy
Atrial Fibrillation
Hypertension
Abdominal aortic aneurysm s/p endovascular stent
Hypercholesterolemia
History of atrioventricular block
Osteoarthritis
History of Asbestos Exposure
Past Surgical History
s/p Endovascular repair of AAA ___
s/p Repair of Endoleak of AAA ___
s/p Left Inguinal Hernia repair
s/p Right Total Knee Replacement
s/p Left Ankle Fusion
Past Cardiac Procedures:
s/p ___ Pacemaker ___ #___

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, deconditioned
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
2+ ___ edema

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___